US08426449B2
Step 1: [3-(2-{[Methyl-(2-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 22, Step 1, using the following starting materials: [3-(2-methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester and 2-(trifluoromethyl)benzenesulfonyl chloride.

reactant | [3-(2-methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNC)=O | C18H18F3NO3
reactant | 2-(trifluoromethyl)benzenesulfonyl chloride | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | [3-(2-{[Methyl-(2-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN(S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C)=O | C25H21F6NO5S
